US05183722
Then, into a 500 ml four necked flask, 30.0 g of the above polymer and 50 ml of methanol were added and dissolved, and then 4.2 of potassim hydroxide was added, stirred and dissolved. Then, 16.2 g of benzyl bromide and 100 ml of dimethyl sulfoxide were added thereto, and the mixture was stirred at 80° C. for 2 hours. The reaction solution was dropwise added to a methanol/1.5% hydrochloric acid aqueous solution (volume ratio of 1/1). A white powder was recovered and vacuum-dried to obtain a partial benzyl ester of a styrene/methacrylic acid copolymer (esterification rate: 50% to methacrylic acid, as determined by potentiometric titration). The obtained amount was 32.5 g.

reactant | hydroxide | [OH-]
reactant | benzyl bromide | 16.2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | styrene methacrylic acid | 50% | C=CC1=CC=CC=C1.C(C(=C)C)(=O)O | InChI=1S/C8H8.C4H6O2/c1-2-8-6-4-3-5-7-8;1-3(2)4(5)6/h2-7H,1H2;1H2,2H3,(H,5,6)
